US09416132B2
A mixture of 5-chloro-3-(3-(trifluoromethyl)phenyl)pyrazolo[1,5-a]pyrimidine (100 mg, 0.336 mmol), 4-aminocyclohexanol (58.0 mg, 0.504 mmol), and DIEA (0.117 ml, 0.672 mmol) in 2-propanol (3 ml) was irradiated to 135° C. for 14 h in a Biotage microwave. After cooling, the mixture was diluted with saturated aqueous NaHCO3, and extracted three times with EtOAc. The combined extracts were washed with brine, dried over Na2SO4 and concentrated in vacuo. After absorbing on celite, the compound was purified by Isco (12 g silica, 1/5/4 MeOH/EtOAc/hex) to give trans-4-((3-(3-(trifluoromethyl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)amino)cyclohexanol (101 mg, 80% yield) as a white solid.

reactant | 5-chloro-3-(3-(trifluoromethyl)phenyl)pyrazolo[1,5-a]pyrimidine | 0.336 mmol, 100 mg | ClC1=NC=2N(C=C1)N=CC2C2=CC(=CC=C2)C(F)(F)F | C13H7ClF3N3
reactant | 4-aminocyclohexanol | 0.504 mmol, 58.0 mg | NC1CCC(CC1)O | C6H13NO
reactant | DIEA | 0.672 mmol, 0.117 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | trans-4-((3-(3-(trifluoromethyl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)amino)cyclohexanol | 101 mg, 80% yield | FC(C=1C=C(C=CC1)C=1C=NN2C1N=C(C=C2)N[C@@H]2CC[C@H](CC2)O)(F)F | C19H19F3N4O
